* gnetlist -g spice-sdb -o ./netlist/tr.net ./schematic/tr.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
C1 No 0 1u  
R1 Ni No 1k  
Vi Ni 0 pwl 0u 0 0.5u 0 0.5u 1 1.0u 1
.end
